US05364866
A stirred mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (2.63 g, 0.01 mole) and 4-nitrophthalic anhydride (1.93 g, 0.01 mole) in dichloromethane (200 ml) is stirred at room temperature for 3 hours. The solvent is then removed under reduced pressure and the residual material is purified by flash chromatography. The product is purified further by recrystallization to give N-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4-nitrophthalimide.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 0.01 mole, 2.63 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | 4-nitrophthalic anhydride | 0.01 mole, 1.93 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4-nitrophthalimide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C=3C(C2=O)=CC(=CC3)[N+](=O)[O-])=O)C=C1 | C22H19FN4O5
